US08859553B2
3-(2-(6-(Cyclopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-cyclopropyl-6-ethynylpyridazin-3-amine and 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide (as prepared above) in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 68-69° C.; 1H NMR (300 MHz, CDCl3) δ: 8.84 (1H, s), 7.99-8.01 (2H, d, J=6.0 Hz), 7.95-7.98 (1H, d, J=9.0 Hz), 7.82-7.85 (1H, d, J=9.0 Hz), 7.71-7.73 (1H, d, J=6.0 Hz), 7.40-7.43 (1H, d, J=9.0 Hz), 7.29-7.32 (1H, d, J=9.0 Hz), 6.99-7.02 (1H, d, J=9.0 Hz), 5.85 (1H, s), 3.63 (2H, s), 2.53 (8H, brs), 2.34 (3H, s), 2.03 (3H, s), 1.43 (1H, m), 0.86-0.88 (2H, m), 0.61-0.63 (2H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C30H32F3N6O: 549.2584. found: 549.2568.

reactant | N-cyclopropyl-6-ethynylpyridazin-3-amine | C1(CC1)NC=1N=NC(=CC1)C#C | C9H9N3
reactant | 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C21H23F3IN3O
product | 3-(2-(6-(Cyclopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | C1(CC1)NC1=CC=C(N=N1)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C30H31F3N6O
